US07863283B2
(RS)-N-(Ethoxycarbonyl)-S-methyl-S-[3-({[4-(thiazol-2-ylamino)quinazolin-7-yl]-amino}methyl)phenyl]sulphoximide
According to GWP 5, the reaction of N′-(2-cyano-5-{3-[(RS)-N-(ethoxycarbonyl)-S-methylsulphonimidoyl]benzylamino}phenyl)-N,N-dimethylformimidamide (90 mg, 0.21 mmol) with 2-aminothiazole (26 mg, 0.25 mmol) and chromatographic purification (silica gel, dichloromethane/methanol: 0→30% methanol) gives the desired product in 43% yield (43 mg).

reactant | N′-(2-cyano-5-{3-[(RS)-N-(ethoxycarbonyl)-S-methylsulphonimidoyl]benzylamino}phenyl)-N,N-dimethylformimidamide | 0.21 mmol, 90 mg | C(#N)C1=C(C=C(C=C1)NCC1=CC(=CC=C1)S(=O)(=NC(=O)OCC)C)N=CN(C)C | C21H25N5O3S
reactant | 2-aminothiazole | 0.25 mmol, 26 mg | NC=1SC=CN1 | C3H4N2S
reactant | dichloromethane methanol | ClCCl.CO
solvent | methanol | CO | CH4O
product | (RS)-N-(Ethoxycarbonyl)-S-methyl-S-[3-({[4-(thiazol-2-ylamino)quinazolin-7-yl]-amino}methyl)phenyl]sulphoximide | 43% yield | C(C)OC(=O)N=S(=O)(C1=CC(=CC=C1)CNC1=CC=C2C(=NC=NC2=C1)NC=1SC=CN1)C | C22H22N6O3S2
